US07094800B2
1c) di-tert-butyl (S)-5-hydroxypyrrolidine-1,2-dicarboxylate
93 g of di-tert-butyl (S)-5-oxopyrrolidine-1,2-dicarboxylate were dissolved in 600 ml of THF and cooled to −78° C. 392 ml of a 1N solution of lithium triethylborohydride in THF were added dropwise over the course of 90 min. The mixture was then stirred at −70° C. for 30 min. Subsequently, 240 ml of saturated sodium bicarbonate solution were added dropwise to the solution. The temperature was allowed to rise to −15° C. and then 160 ml of a 30% strength hydrogen peroxide solution were added dropwise. The mixture was then stirred at room temperature for 30 min. The phases were then separated, and the organic phase was concentrated in vacuo. The residue was taken up in 500 ml of tert-butyl methyl ether and washed 3 times with 300 ml of a 10% strength solution of sodium bicarbonate in water each time and twice with 300 ml of a saturated sodium chloride solution each time. The organic phase was dried with sodium sulfate, and the solvents were removed in vacuo. The crude product obtained in this way was employed without further purification in the next reaction.

reactant | di-tert-butyl (S)-5-oxopyrrolidine-1,2-dicarboxylate | 93 g | O=C1CC[C@H](N1C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C14H23NO5
reactant | lithium triethylborohydride | C(C)[BH-](CC)CC.[Li+]
reactant | sodium bicarbonate | 240 ml | C([O-])(O)=O.[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | THF | 600 ml | C1CCOC1 | C4H8O
product | di-tert-butyl (S)-5-hydroxypyrrolidine-1,2-dicarboxylate | OC1CC[C@H](N1C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C14H25NO5
